US09260408B2
[A] Methyl 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate
To a solution of methyl 2-(5-bromopyridin-3-yl)acetate (4 g, 17.4 mmol) in DMF (80 mL), cooled at 0° C. with an ice bath, was added 60% NaH in mineral oil (0.918 g, 38.3 mmol) and the reaction mixture was stirred at 0° C. for 15 min. Then, a solution of 1,2-dibromoethane (3.27 g, 17.4 mmol) in DMF (16 mL) was added at 0° C. After the addition, the mixture was stirred at room temperature for 1 h. Two other portions of 60% NaH in mineral oil (2×0.2 g) were added sequentially, until conversion was complete. Then, the reaction mixture was poured into H2O (50 mL) and extracted with EtOAc (3×125 mL). The organic layers were combined, dried over Na2SO4, filtered and evaporated to dryness to give the title compound (4.764 g, 99%) as a brown oil, which was used with no further purification. MS: 256.0 and 258.0 (M+H+).

reactant | methyl 2-(5-bromopyridin-3-yl)acetate | 17.4 mmol, 4 g | BrC=1C=C(C=NC1)CC(=O)OC | C8H8BrNO2
reactant | NaH | [H-].[Na+]
reactant | 1,2-dibromoethane | 17.4 mmol, 3.27 g | BrCCBr | C2H4Br2
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | Methyl 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate | 4.764 g, 99% | BrC=1C=C(C=NC1)C1(CC1)C(=O)OC | C10H10BrNO2
